US08975254B2
(S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile was prepared using the method of Example 34(c) starting from 2-nitro-4-(1H-pyrazol-5-yl)benzonitrile (2.0 g, 9.34 mmol) and (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate (1.6 g, 9.13 mmol). Yield 71.0%. H-NMR (400 MHz; DMSO-d6): 0.98 (d, 3H), 3.23-3.33 (m, 1H), 4.01-4.12 (m, 2H), 7.08 (d, 1H), 7.90 (d, 1H), 8.19 (d, 1H), 8.34 (dd, 1H), 8.69 (d, HA).

reactant | 2-nitro-4-(1H-pyrazol-5-yl)benzonitrile | 9.34 mmol, 2.0 g | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C1=CC=NN1 | C10H6N4O2
reactant | (S)-tert-butyl 1-hydroxypropan-2-ylcarbamate | 9.13 mmol, 1.6 g | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
product | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile | Yield 71.0% | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)[N+](=O)[O-])C | C13H13N5O2
